US07148245B2
(a) 1,3-Dibromo-2-methoxymethoxybenzene
In a manner similar to that of Example 7(a), by reaction of 19.16 g (76.1 mmol) of 2,6-dibromophenol with 7.35 g (91.3 mmol) of chloromethyl methyl ether, 22.50 g (100%) of the expected product are obtained in the form of a colourless oil.

reactant | 2,6-dibromophenol | 76.1 mmol, 19.16 g | BrC1=C(C(=CC=C1)Br)O | C6H4Br2O
reactant | chloromethyl methyl ether | 91.3 mmol, 7.35 g | COCCl | C2H5ClO
product | 1,3-Dibromo-2-methoxymethoxybenzene | 22.50 g, 100% | BrC1=C(C(=CC=C1)Br)OCOC | C8H8Br2O2
